US09227918B2
To a solution of 365 mg (1.38 mmol) of dimethyl 5-(2-nitrovinyl)isophthalate in 15 mL of methanol and 0.46 mL of 12 N HCl, was added 80 mg of 10% palladium on carbon. The mixture was stirred under a hydrogen balloon atmosphere for 7 h then filtered through celite and evaporated to give dimethyl 5-(2-aminoethyl)isophthalate hydrochloride as a white solid which was used as such immediately in the next step.

reactant | dimethyl 5-(2-nitrovinyl)isophthalate | 1.38 mmol, 365 mg | [N+](=O)([O-])C=CC=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C12H11NO6
reactant | HCl | 12 N, 0.46 mL | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
catalyst | palladium on carbon | 80 mg | [Pd] | Pd
product | dimethyl 5-(2-aminoethyl)isophthalate hydrochloride | Cl.NCCC=1C=C(C=C(C(=O)OC)C1)C(=O)OC | InChI=1S/C12H15NO4.ClH/c1-16-11(14)9-5-8(3-4-13)6-10(7-9)12(15)17-2;/h5-7H,3-4,13H2,1-2H3;1H
